*|DSPF	1.5
*|DESIGN	nmos_cm_2x9_5
*|DATE	"Wed Jun 19 2025"
*|VENDOR	"Mentor Graphics Corporation"
*|PROGRAM	"Calibre xACT"
*|VERSION	"v2020.4_34.17"
*|DIVIDER	|
*|DELIMITER	:
*|BUSBIT	[]
* Corner Name: 12lp_11M_3Mx_4Cx_2Kx_2Gx_LB_nominal_detailed_25
* Nominal Temperature: 25C
* Circuit Temperature: 25C
*

* Integrated TICER reduction is not enabled.
* SHORT DELAY THRESHOLD: 2e-14
* Fill Mode: NG
* PEX REDUCE CC ABSOLUTE : disabled
* PEX REDUCE CC RATIO : disabled
* Delta transform mode : 344834

.subckt nmos_cm_2x9_5 d0 d1 s

* Net:s ----------------


R1 s s:32 0.672
R2 s s:8 2.128
R3 s s:23 1.092
R4 s s:24 1.092
R5 s:24 s:1 1.092
R6 s:24 s:25 10.92
R7 s:25 s:2 1.092
R8 s:2 s:36 0.672
R9 s:2 MN1@0:s 14
R10 s:2 s:12 2.128
R11 s:2 MN1@0:s 14
R12 s:2 s:26 1.092
R13 s:2 MN1@0:s 14
R14 s:26 s:5 5.74
R15 s:5 s:0 17.64
R16 s:5 s:27 5.18
R17 s:27 s:3 1.092
R18 s:3 s:40 0.672
R19 s:3 MN1@1:s 14
R20 s:3 s:16 2.128
R21 s:3 MN1@1:s 14
R22 s:3 s:28 1.092
R23 s:3 MN1@1:s 14
R24 s:28 s:4 12.012
R25 s:4 s:43 0.672
R26 s:4 MN0@1:s 14
R27 s:4 s:20 2.128
R28 s:4 MN0@1:s 14
R29 s:4 s:29 1.092
R30 s:4 MN0@1:s 14
R31 s:43 s:44 3.528
R32 s:43 MN0@1:s 14
R33 s:44 s:45 3.528
R34 s:44 MN0@1:s 14
R35 s:45 s:21 2.52
R36 s:45 MN0@1:s 14
R37 s:40 s:41 3.528
R38 s:40 MN1@1:s 14
R39 s:41 s:42 3.528
R40 s:41 MN1@1:s 14
R41 s:42 s:17 2.52
R42 s:42 MN1@1:s 14
R43 s:0 s:30 1.092
R44 s:0 s:11 4.62
R45 s:0 s:22 2.996
R46 s:22 s:14 3.248
R47 s:14 s:39 1.12
R48 s:39 s:15 1.12
R49 s:39 MN1@1:b 14
R50 s:15 s:18 10.864
R51 s:18 s:7 1.12
R52 s:7 s:19 1.12
R53 s:7 MN0@1:b 14
R54 s:11 s:35 1.12
R55 s:35 s:10 1.12
R56 s:35 MN1@0:b 14
R57 s:10 s:31 11.984
R58 s:31 s:6 1.12
R59 s:31 MN0@0:b 14
R60 s:36 s:37 3.528
R61 s:36 MN1@0:s 14
R62 s:37 s:38 3.528
R63 s:37 MN1@0:s 14
R64 s:38 s:13 2.52
R65 s:38 MN1@0:s 14
R66 s:1 s:32 0.672
R67 s:1 MN0@0:s 14
R68 s:1 s:8 2.128
R69 s:1 MN0@0:s 14
R70 s:1 s:23 1.092
R71 s:1 MN0@0:s 14
R72 s:32 s:33 3.528
R73 s:32 MN0@0:s 14
R74 s:33 s:34 3.528
R75 s:33 MN0@0:s 14
R76 s:34 s:9 2.52
R77 s:34 MN0@0:s 14
R78 MN0@1:s MN2@0:s 0.01
C1 s:24 0 8.190000000000001e-15
C2 s:24 0 8.190000000000001e-14
C3 s:25 0 8.190000000000001e-15
C4 s:2 0 5.04e-15
C5 s:2 0 1.5960000000000002e-14
C6 s:2 0 8.190000000000001e-15
C7 s:26 0 4.304999999999998e-14
C8 s:5 0 1.323e-13
C9 s:5 0 3.8850000000000025e-14
C10 s:27 0 8.190000000000001e-15
C11 s:3 0 5.04e-15
C12 s:3 0 1.5960000000000002e-14
C13 s:3 0 8.190000000000001e-15
C14 s:28 0 9.009000000000001e-14
C15 s:4 0 5.04e-15
C16 s:4 0 1.5960000000000002e-14
C17 s:4 0 8.190000000000001e-15
C18 s:43 0 2.6460000000000002e-14
C19 s:44 0 2.6460000000000002e-14
C20 s:45 0 1.89e-14
C21 s:40 0 2.6460000000000002e-14
C22 s:41 0 2.6460000000000002e-14
C23 s:42 0 1.89e-14
C24 s:0 0 8.190000000000001e-15
C25 s:0 0 3.465e-14
C26 s:0 0 2.247e-14
C27 s:22 0 2.436e-14
C28 s:14 0 8.400000000000001e-15
C29 s:39 0 8.400000000000001e-15
C30 s:15 0 8.148000000000001e-14
C31 s:18 0 8.400000000000001e-15
C32 s:7 0 8.400000000000001e-15
C33 s:11 0 8.400000000000001e-15
C34 s:35 0 8.400000000000001e-15
C35 s:10 0 8.988e-14
C36 s:31 0 8.400000000000001e-15
C37 s:36 0 2.6460000000000002e-14
C38 s:37 0 2.6460000000000002e-14
C39 s:38 0 1.89e-14
C40 s:1 0 5.04e-15
C41 s:1 0 1.5960000000000002e-14
C42 s:1 0 8.190000000000001e-15
C43 s:32 0 2.6460000000000002e-14
C44 s:33 0 2.6460000000000002e-14
C45 s:34 0 1.89e-14


* Net:d0 ----------------


R79 d0 d0:0 0.161
R80 d0 d0:7 0.448
R81 d0 d0:5 0.907
R82 d0 d0:2 39.312
R83 d0:2 d0:1 0.952
R84 d0:2 d0:16 0.588
R85 d0:2 d0:0 39.312
R86 d0:0 d0:18 3.731
R87 d0:0 d0:5 0.896
R88 d0:18 d0:19 3.528
R89 d0:18 MN0@0:d 14
R90 d0:19 d0:20 3.528
R91 d0:19 MN0@0:d 14
R92 d0:20 d0:8 2.52
R93 d0:20 MN0@0:d 14
R94 d0:8 d0:3 2.268
R95 d0:3 d0:21 1.162
R96 d0:3 d0:10 1.092
R97 d0:10 d0:11 8.736
R98 d0:11 d0:22 2.114
R99 d0:22 d0:12 2.254
R100 d0:22 MN0@0:g 342
R101 d0:22 MN1@0:g 342
R102 d0:22 MN1@1:g 342
R103 d0:22 MN0@1:g 342
R104 d0:12 d0:13 8.736
R105 d0:13 d0:23 2.114
R106 d0:23 d0:14 2.254
R107 d0:23 MN0@0:g 342
R108 d0:23 MN1@0:g 342
R109 d0:23 MN1@1:g 342
R110 d0:23 MN0@1:g 342
R111 d0:14 d0:27 10.85
R112 d0:27 d0:4 1.162
R113 d0:27 MN0@0:g 342
R114 d0:27 MN1@0:g 342
R115 d0:27 MN1@1:g 342
R116 d0:27 MN0@1:g 342
R117 d0:4 d0:17 2.296
R118 d0:4 d0:15 1.092
R119 d0:17 d0:26 2.492
R120 d0:26 d0:25 3.528
R121 d0:26 MN0@1:d 14
R122 d0:25 d0:24 3.528
R123 d0:25 MN0@1:d 14
R124 d0:24 d0:1 2.8
R125 d0:24 MN0@1:d 14
R126 d0:21 d0:9 2.114
R127 d0:21 MN0@0:g 342
R128 d0:21 MN1@0:g 342
R129 d0:21 MN1@1:g 342
R130 d0:21 MN0@1:g 342
R131 MN0@1:d MN2@0:d 0.01
C46 d0:2 0 7.14e-15
C47 d0:2 0 4.41e-15
C48 d0:2 0 2.9484004293100654e-13
C49 d0:0 0 2.7980891364902507e-14
C50 d0:0 0 6.72188333413803e-15
C51 d0:18 0 2.6460000000000002e-14
C52 d0:19 0 2.6460000000000002e-14
C53 d0:20 0 1.89e-14
C54 d0:8 0 1.701e-14
C55 d0:3 0 8.715e-15
C56 d0:3 0 8.190000000000001e-15
C57 d0:10 0 6.552000000000001e-14
C58 d0:11 0 1.5855000000000002e-14
C59 d0:22 0 1.6905e-14
C60 d0:12 0 6.552000000000001e-14
C61 d0:13 0 1.5855000000000002e-14
C62 d0:23 0 1.6905e-14
C63 d0:14 0 8.137500000000001e-14
C64 d0:27 0 8.715e-15
C65 d0:4 0 1.722e-14
C66 d0:4 0 8.190000000000001e-15
C67 d0:17 0 1.869e-14
C68 d0:26 0 2.6460000000000002e-14
C69 d0:25 0 2.6460000000000002e-14
C70 d0:24 0 2.1000000000000002e-14
C71 d0:21 0 1.5855000000000002e-14


* Net:d1 ----------------


R132 d1 d1:13 0.14
R133 d1 d1:1 0.41
R134 d1:1 d1:2 0.897
R135 d1:13 d1:7 19.572
R136 d1:7 d1:8 3.528
R137 d1:7 MN1@0:d 14
R138 d1:8 d1:9 3.528
R139 d1:8 MN1@0:d 14
R140 d1:9 d1:4 2.52
R141 d1:9 MN1@0:d 14
C72 d1:1 0 6.725924428478216e-15
C73 d1:13 0 4.1790000000000004e-14
C74 d1:7 0 2.6460000000000002e-14
C75 d1:8 0 2.6460000000000002e-14
C76 d1:9 0 1.89e-14


xMN0@0 MN0@0:d MN0@0:g MN0@0:s MN0@0:b nfet m=1 l=1.4e-08 nfin=9 nf=1 par=1 par_nf=1 asej=5.35e-15 adej=5.35e-15 psej=1.07e-06 pdej=1.07e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@0 MN1@0:d MN1@0:g MN1@0:s MN1@0:b nfet m=1 l=1.4e-08 nfin=9 nf=1 par=1 par_nf=1 asej=5.35e-15 adej=5.35e-15 psej=1.07e-06 pdej=1.07e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@1 MN1@1:d MN1@1:g MN1@1:s MN1@1:b nfet m=1 l=1.4e-08 nfin=9 nf=1 par=1 par_nf=1 asej=5.35e-15 adej=5.35e-15 psej=1.07e-06 pdej=1.07e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@1 MN0@1:d MN0@1:g MN0@1:s MN0@1:b nfet m=1 l=1.4e-08 nfin=9 nf=1 par=1 par_nf=1 asej=5.35e-15 adej=5.35e-15 psej=1.07e-06 pdej=1.07e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1

.end